US09079985B2
6-tert-Butyl-2-isobutyl-5-methoxyindan-1-one
To Iton reagent (obtained from 110 g of P4O10 and 560 ml of methanesulfonic acid at 110° C.) a mixture of 59.4 g (0.362 mol) of 1-tert-butyl-2-methoxybenzene and 51.5 g (0.402 mol) of 2-isobutylacrylic acid was added dropwise at vigorous stirring in such a rate to maintain temperature at 60±1° C. (for ca. 40 min). The resulting mixture was stirred for 40 min at 65° C., cooled to room temperature, and then poured on 1000 cm3 of ice with 1000 cm3 of water. The product was extracted by 3×500 ml of dichloromethane. The combined organic extract was washed by aqueous K2CO3, dried over Na2SO4 and then evaporated to dryness. Fractional rectification of the residue gave dark red oil, b.p. 165-174° C./5 mm Hg. This oil was recrystallized from 100 ml of hexanes. White crystals precipitated at 5° C. were collected, washed by 20 ml of cold hexanes, and dried in vacuum. Yield 24.9 g (25%) of the title product.

reactant | 1-tert-butyl-2-methoxybenzene | 0.362 mol, 59.4 g | C(C)(C)(C)C1=C(C=CC=C1)OC | C11H16O
reactant | 2-isobutylacrylic acid | 0.402 mol, 51.5 g | C(C(C)C)C(C(=O)O)=C | C7H12O2
solvent | water | 1000 cm3 | O | H2O
product | 6-tert-Butyl-2-isobutyl-5-methoxyindan-1-one | C(C)(C)(C)C1=C(C=C2CC(C(C2=C1)=O)CC(C)C)OC | C18H26O2
